US06593345B1
1-Acetyloxy-2-(3-methoxyphenyl)-6-methoxy-3,4-dihydronaphthalene
A suspension was prepared of 47 g (167 mmol) of 2-(3-methoxyphenyl)-6-methoxy-1-tetralone and 4.7 g of p-toluenesulfonic acid mono-hydrate in 470 mL of iso-propenylacetate. The reaction mixture was refluxed for forty-eight hours under a nitrogen atmosphere. The reaction was allowed to cool and 10 g of NaHCO3 was added, the solution was poured into 500 mL of an aqueous solution of NaHCO3. The aqueous solution was extracted three times with 200 mL portions of EtOAc. The combined organic extract was washed with brine, dried with Na2SO4, and evaporated to a dark oil. This yielded 52.7 g of the title compound.

reactant | 2-(3-methoxyphenyl)-6-methoxy-1-tetralone | 167 mmol, 47 g | COC=1C=C(C=CC1)C1C(C2=CC=C(C=C2CC1)OC)=O | C18H18O3
reactant | p-toluenesulfonic acid mono-hydrate | 4.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | 10 g | C(=O)(O)[O-].[Na+]
solvent | iso-propenylacetate | 470 mL | C(=C)(C)CC(=O)[O-]
product | 1-Acetyloxy-2-(3-methoxyphenyl)-6-methoxy-3,4-dihydronaphthalene | C(C)(=O)OC1=C(CCC2=CC(=CC=C12)OC)C1=CC(=CC=C1)OC | C20H20O4
